US05972975
Step C: 5-(1-Pentyl)-4-methyl-2-aminopyridine
A suspension of 4-methyl-2-(trimethylacetyl)amino-5-(1-pentyl)-pyridine (233 mg, 0.89 mmol) in 2N hydrochloric acid (3 mL) was heated at 100° C. for 18 h. The solution was cooled to room temperature, made basic with 20% aqueous sodium carbonate and extracted with chloroform. The organic layer was dried (Na2SO4), and evaporated. The product was purified by silica gel column chromatography using 2% methanol/methylene chloride to give the title compound.

reactant | 4-methyl-2-(trimethylacetyl)amino-5-(1-pentyl)-pyridine | 0.89 mmol, 233 mg | CC1=CC(=NC=C1CCCCC)NC(C(C)(C)C)=O | C16H26N2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | hydrochloric acid | 2N, 3 mL | Cl | ClH
product | 5-(1-Pentyl)-4-methyl-2-aminopyridine | C(CCCC)C=1C(=CC(=NC1)N)C | C11H18N2
